plaintext
* Netlist for the given schematic

Q1 2 Vb2 0 NPN
Q2 3 Vb2 5 NPN
I1 3 4 DC 1
Rout 5 4 1k

* Voltage and Ground Definitions
Vb2 Vb2 0 DC 1
VCC 3 0 DC 5

.END